* File: BUFD8.cdl.pex
* Created: Fri Dec  6 22:29:38 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_BUFD8%net1 5 6 11 12 20 22 23 25 26 35 37 38 40 42 44 45 46 49 50 52
+ 53 55 56 57 58 59 61 64 70 72 73 75 78 79 80 81 94
c98 94 0 0.0225873f
c99 80 0 0.590351f
c100 79 0 0.36345f
c101 78 0 0.395824f
c102 75 0 0.0376235f
c103 73 0 0.0486278f
c104 72 0 6.35089e-19
c105 70 0 0.0170791f
c106 66 0 0.0115301f
c107 64 0 0.0822877f
c108 61 0 0.391278f
c109 59 0 0.389691f
c110 58 0 0.014078f
c111 57 0 0.0356617f
c112 56 0 0.0133159f
c113 55 0 0.0344092f
c114 53 0 0.0286672f
c115 52 0 0.337628f
c116 50 0 0.0143311f
c117 49 0 0.349275f
c118 46 0 0.0235587f
c119 45 0 0.0284563f
c120 44 0 0.222295f
c121 42 0 0.0664521f
c122 40 0 0.129188f
c123 38 0 0.0211911f
c124 37 0 0.0829075f
c125 35 0 0.0191807f
c126 26 0 0.0247975f
c127 25 0 0.0565398f
c128 23 0 0.0569992f
c129 22 0 0.133747f
c130 20 0 0.0322298f
r131 95 100 0.100758
r132 94 95 0.0933333
r133 81 100 0.0315
r134 80 100 0.0245
r135 80 88 0.0563853
r136 80 88 0.07
r137 70 78 0.238548
r138 64 94 0.0684127
r139 57 61 0.266186
r140 57 58 1
r141 55 59 0.266186
r142 55 56 1
r143 52 58 0.266186
r144 49 56 0.266186
r145 48 72 0.055023
r146 48 75 0.833333
r147 45 50 0.266186
r148 45 46 0.833333
r149 43 73 0.211723
r150 43 44 2.41667
r151 42 73 0.211723
r152 41 72 0.211723
r153 41 42 2
r154 40 72 0.211723
r155 39 46 0.279364
r156 39 40 2.25
r157 38 79 0.227193
r158 37 44 0.279364
r159 37 38 0.666667
r160 35 73 0.055023
r161 35 70 0.666667
r162 25 79 0.227193
r163 25 26 2
r164 24 66 0.055023
r165 23 78 0.227193
r166 23 24 2
r167 22 26 0.279364
r168 21 66 0.211723
r169 21 22 2.33333
r170 20 66 0.211723
r171 19 64 0.488662
r172 19 20 0.583333
r173 12 61 3.75
r174 11 59 3.75
r175 6 53 0.125
r176 6 75 0.407372
r177 6 52 3.625
r178 6 53 3.625
r179 5 49 3.75
r180 5 50 3.75
.ends

.subckt PM_BUFD8%IN 1 6 8 21 22
c24 22 0 0.339804f
c25 21 0 0.698974f
c26 8 0 0.0600617f
c27 7 0 0.0245853f
c28 6 0 0.0600617f
c29 5 0 0.0245853f
c30 1 0 0.810904f
r31 7 22 0.227193
r32 7 8 0.583333
r33 5 21 0.227193
r34 5 6 0.583333
r35 3 8 0.279364
r36 2 6 0.279364
r37 1 3 3.91667
r38 1 2 3.75
.ends

.subckt PM_BUFD8%VDD 1 2 3 12 13 20 21 22 31
c52 39 0 0.0463594f
c53 31 0 0.0343789f
c54 22 0 0.0142881f
c55 21 0 0.021227f
c56 20 0 0.169546f
c57 13 0 1.4407f
c58 3 0 4.44133f
c59 2 0 0.393805f
r60 23 39 0.00677755
r61 21 31 0.0517064
r62 21 22 0.116667
r63 20 39 0.0427352
r64 19 22 0.039111
r65 19 20 0.653333
r66 13 39 0.00677755
r67 3 12 0.270667
r68 3 23 0.0793333
r69 2 31 0.0583333
r70 1 13 0.126
.ends

.subckt PM_BUFD8%OUT 1 8 21 25 26 34 35 40 41 42 48 53 54 55
c64 55 0 0.0445514f
c65 54 0 0.0296927f
c66 53 0 0.0356645f
c67 48 0 0.0296927f
c68 42 0 0.0324312f
c69 41 0 0.214977f
c70 40 0 0.023765f
c71 35 0 0.0297873f
c72 34 0 0.0340628f
c73 26 0 0.255543f
c74 25 0 0.165649f
c75 8 0 0.268831f
r76 54 55 0.233333
r77 48 55 0.0532251
r78 42 53 0.0532251
r79 41 54 0.0532251
r80 40 53 0.198333
r81 36 40 0.039111
r82 34 37 0.039111
r83 34 35 0.105
r84 26 35 0.0517064
r85 25 37 0.676667
r86 25 36 0.0116667
r87 21 26 0.0583333
r88 8 48 0.0583333
r89 1 41 0.0583333
r90 1 42 0.0583333
.ends

.subckt PM_BUFD8%VSS 1 2 15 16 41 46 47 64 69 70 71 72 76 79
c50 80 0 0.0781217f
c51 79 0 0.509779f
c52 76 0 0.0962799f
c53 72 0 0.0438171f
c54 71 0 0.37499f
c55 70 0 0.0438171f
c56 69 0 0.0725964f
c57 64 0 0.428363f
c58 47 0 0.983041f
c59 41 0 1.61469f
c60 15 0 1.53124f
c61 1 0 1.57933f
r62 78 79 0.665
r63 76 79 0.039111
r64 76 80 0.116667
r65 71 80 0.0532251
r66 69 72 0.0517064
r67 69 70 0.233333
r68 64 70 0.0517064
r69 47 78 0.0679156
r70 41 46 0.200667
r71 16 71 0.0583333
r72 16 72 0.0583333
r73 15 47 0.0793333
r74 2 64 0.0583333
r75 1 15 0.158667
r76 1 46 0.196
.ends

