* File: INVD1.cdl.pex
* Created: Sat Aug 17 14:27:25 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVD1%IN 1 5 6 19 20
c10 20 0 0.174793f
c11 19 0 0.33433f
c12 6 0 0.0600617f
c13 5 0 0.0643576f
c14 1 0 0.855783f
r15 5 20 0.227193
r16 5 6 1.5
r17 3 6 0.279364
r18 2 19 0.891144
r19 1 3 3.83333
r20 1 2 3.83333
.ends

.subckt PM_INVD1%VSS 1 3
c3 1 0 1.07842f
r4 1 3 0.0373333
.ends

.subckt PM_INVD1%VDD 1 3
c6 1 0 1.09418f
r7 1 3 0.0551112
.ends

.subckt PM_INVD1%OUT 1 2 5 14
c9 14 0 0.243422f
c10 5 0 0.567003f
r11 6 14 0.000363213
r12 5 6 0.077
r13 2 5 0.1155
r14 1 14 0.0311111
.ends

