* File: INVD16.cdl.pex
* Created: Sat Aug 17 14:52:21 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVD16%IN 3 4 7 8 13 14 18 23 25 29 33 34 38 40 42 43 61 62
c52 54 0 0.0650141f
c53 53 0 0.0210913f
c54 52 0 0.0650141f
c55 51 0 0.0195531f
c56 43 0 0.0361877f
c57 42 0 0.240318f
c58 40 0 0.101837f
c59 38 0 0.0770133f
c60 34 0 0.0801104f
c61 33 0 0.644046f
c62 29 0 0.54661f
c63 25 0 0.102337f
c64 23 0 0.0762288f
c65 18 0 0.531603f
c66 14 0 0.557843f
c67 13 0 0.245993f
c68 8 0 0.516539f
c69 7 0 0.510158f
r70 47 53 0.055023
r71 41 54 0.211723
r72 41 42 1.625
r73 40 54 0.211723
r74 39 53 0.211723
r75 39 40 1.375
r76 38 53 0.211723
r77 37 43 0.279364
r78 37 38 1.625
r79 34 62 6.375
r80 33 42 0.279364
r81 33 62 6
r82 30 52 0.055023
r83 30 61 6.375
r84 29 54 0.055023
r85 29 61 6
r86 27 34 0.279364
r87 26 52 0.211723
r88 25 52 0.211723
r89 24 51 0.211723
r90 24 25 1.375
r91 23 51 0.211723
r92 22 23 1.625
r93 18 51 0.055023
r94 14 22 0.279364
r95 13 27 0.3125
r96 13 26 1.3125
r97 8 47 5.375
r98 7 43 5.375
r99 4 18 5.625
r100 3 14 5.625
.ends

.subckt PM_INVD16%OUT 1 10 27 32 33 39 40 42 43 47 48 58 64 65
c56 65 0 0.0173383f
c57 64 0 0.0181717f
c58 58 0 0.0207227f
c59 48 0 0.0297934f
c60 47 0 0.0165289f
c61 43 0 0.678776f
c62 42 0 0.151242f
c63 40 0 0.0226898f
c64 39 0 0.0399879f
c65 33 0 0.352247f
c66 27 0 0.336657f
c67 10 0 0.352713f
r68 48 65 0.0471772
r69 47 65 0.0875
r70 44 64 0.0209015
r71 43 58 0.038898
r72 42 47 0.039111
r73 41 64 0.0162712
r74 41 42 0.46375
r75 39 64 0.0209015
r76 39 40 0.128333
r77 33 40 0.038898
r78 32 43 0.606667
r79 32 44 0.56
r80 27 48 0.0661111
r81 10 58 0.0661111
r82 1 33 0.0661111
.ends

.subckt PM_INVD16%VDD 1 2 11 12 23 33 36 41 42
c49 42 0 2.29283f
c50 41 0 0.0449431f
c51 36 0 0.145713f
c52 33 0 0.0383841f
c53 23 0 0.5008f
c54 12 0 0.908308f
c55 11 0 1.9439f
c56 2 0 0.942746f
r57 36 42 0.0427352
r58 35 36 0.583333
r59 33 35 0.039111
r60 33 41 0.0816667
r61 23 41 0.0684127
r62 12 42 0.00677755
r63 2 12 0.077
r64 2 11 0.163333
r65 1 23 0.0661111
.ends

.subckt PM_INVD16%VSS 1 2 19 20 53 55 56 57 68 69 75 81 82 84 85
c53 85 0 0.0276402f
c54 84 0 0.458567f
c55 82 0 0.0846757f
c56 81 0 0.0923202f
c57 75 0 0.574311f
c58 69 0 0.104552f
c59 68 0 0.0605294f
c60 57 0 0.331643f
c61 56 0 1.66898f
c62 55 0 0.44089f
c63 53 0 1.04136f
c64 19 0 1.55144f
c65 2 0 0.575379f
c66 1 0 1.23275f
r67 83 84 0.653333
r68 81 84 0.039111
r69 81 82 0.105
r70 75 82 0.0517064
r71 69 85 0.0572752
r72 68 85 0.0933333
r73 56 83 0.0679156
r74 55 68 0.039111
r75 54 57 0.0679156
r76 54 55 0.618333
r77 20 75 0.0661111
r78 19 56 0.0816667
r79 19 53 0.392
r80 2 69 0.0661111
r81 1 53 0.266
r82 1 57 0.0793333
.ends

