* File: INVD2.cdl.pex
* Created: Sat Aug 17 14:29:13 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVD2%IN 1 5 6 19 20
c12 20 0 0.247108f
c13 19 0 0.480501f
c14 6 0 0.0600617f
c15 5 0 0.0643576f
c16 1 0 0.867228f
r17 5 20 0.227193
r18 5 6 1.5
r19 3 6 0.279364
r20 2 19 0.891144
r21 1 3 3.83333
r22 1 2 3.83333
.ends

.subckt PM_INVD2%VSS 1 4
c4 1 0 1.42614f
r5 1 4 0.0513333
.ends

.subckt PM_INVD2%VDD 1 3
c7 1 0 1.47065f
r8 1 3 0.0583333
.ends

.subckt PM_INVD2%OUT 1 2 6 7
c13 21 0 0.0209781f
c14 7 0 0.083709f
c15 6 0 0.391774f
c16 2 0 0.228178f
c17 1 0 0.26625f
r18 14 21 0.0296412
r19 11 21 0.00770322
r20 7 21 0.0296412
r21 6 12 0.0933333
r22 6 11 0.0855556
r23 2 12 0.0233333
r24 1 14 0.0661111
r25 1 7 0.00388889
.ends

