* File: INVD4.cdl.pex
* Created: Sat Aug 17 14:31:10 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVD4%IN 1 5 6 19 20
c12 20 0 0.391633f
c13 19 0 0.77096f
c14 6 0 0.0600617f
c15 5 0 0.143655f
c16 1 0 0.89677f
r17 5 20 0.227193
r18 5 6 3.33333
r19 3 6 0.279364
r20 2 19 0.891144
r21 1 3 3.66667
r22 1 2 4
.ends

.subckt PM_INVD4%VSS 1 6
c5 1 0 2.12158f
r6 1 6 0.0723333
r7 1 6 0.0116667
.ends

.subckt PM_INVD4%VDD 1 4
c7 4 0 2.19956f
r8 1 4 0.0676667
.ends

.subckt PM_INVD4%OUT 1 2 9 10 16
c14 34 0 0.0209781f
c15 33 0 0.0209781f
c16 16 0 0.0996994f
c17 10 0 0.20147f
c18 9 0 0.417375f
c19 2 0 0.207933f
c20 1 0 0.386004f
r21 29 34 0.0296412
r22 23 33 0.0296412
r23 21 34 0.00770322
r24 20 33 0.00770322
r25 16 34 0.0296412
r26 10 33 0.0296412
r27 9 21 0.0933333
r28 9 20 0.0855556
r29 2 29 0.0388889
r30 2 16 0.0311111
r31 1 23 0.0622222
r32 1 10 0.00777778
.ends

