* File: INVD8.cdl.pex
* Created: Sat Aug 17 14:41:36 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVD8%IN 1 3 21 26 27 28
c21 28 0 0.701773f
c22 27 0 0.420887f
c23 26 0 0.624897f
c24 21 0 0.0655055f
c25 3 0 0.201186f
c26 1 0 0.513926f
r27 21 27 0.0744335
r28 5 28 0.891144
r29 4 21 0.435711
r30 3 21 0.435711
r31 2 26 0.891144
r32 2 3 2.33333
r33 1 5 3.83333
r34 1 4 1
.ends

.subckt PM_INVD8%VDD 1 6
c7 1 0 2.21888f
r8 1 6 0.0443333
r9 1 6 0.0396667
.ends

.subckt PM_INVD8%VSS 1 2 11 13 14 25
c23 25 0 0.0611997f
c24 14 0 0.346786f
c25 13 0 0.200878f
c26 11 0 1.86007f
c27 2 0 0.399753f
r28 13 25 0.0800468
r29 12 14 0.0679156
r30 12 13 0.653333
r31 2 25 0.0661111
r32 1 11 0.00233333
r33 1 14 0.0746667
.ends

.subckt PM_INVD8%OUT 1 2 11 12 22 32 35 36 38 39
c23 39 0 0.0637495f
c24 38 0 0.476665f
c25 36 0 0.0732711f
c26 35 0 0.0770275f
c27 32 0 0.0748956f
c28 22 0 0.384325f
c29 12 0 0.335077f
r30 37 38 0.688333
r31 35 38 0.039111
r32 35 36 0.0816667
r33 32 37 0.039111
r34 22 36 0.0517064
r35 12 39 0.0532251
r36 11 32 0.0583333
r37 11 39 0.0233333
r38 2 22 0.0661111
r39 1 12 0.0661111
.ends

