* File: NOR2D8.cdl.pex
* Created: Sat Aug 17 15:01:22 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2D8%IN1 5 6 11 12 17 18 21 25 29 30 32 33 39 40
c56 40 0 0.0421561f
c57 39 0 0.011203f
c58 33 0 0.0205757f
c59 32 0 0.0653111f
c60 30 0 0.0794097f
c61 29 0 0.638384f
c62 25 0 0.0870543f
c63 21 0 0.550988f
c64 18 0 0.578889f
c65 17 0 0.42732f
c66 12 0 0.510158f
c67 11 0 0.628849f
r68 36 40 0.211723
r69 32 40 0.055023
r70 31 33 0.279364
r71 31 32 1.625
r72 29 40 0.211723
r73 29 30 12.0625
r74 27 30 0.279364
r75 26 39 0.211723
r76 25 39 0.211723
r77 24 25 1.625
r78 21 39 0.055023
r79 18 24 0.279364
r80 17 27 2
r81 17 26 1.75
r82 12 36 5.375
r83 11 33 5.375
r84 6 21 5.9375
r85 5 18 5.9375
.ends

.subckt PM_NOR2D8%IN2 5 6 11 12 17 18 21 24 25 29 30 37 40
c53 40 0 0.0548612f
c54 37 0 0.0239632f
c55 30 0 0.0433149f
c56 29 0 0.0674547f
c57 25 0 0.861245f
c58 24 0 0.0570838f
c59 21 0 0.63786f
c60 18 0 0.517838f
c61 6 0 0.528008f
c62 5 0 0.518744f
r63 40 41 0.4375
r64 33 41 0.0293644
r65 29 40 0.1875
r66 28 30 0.279364
r67 28 29 1.25
r68 26 37 0.0293644
r69 25 40 0.0993442
r70 24 36 0.0536562
r71 23 24 2.16667
r72 21 36 0.641357
r73 18 23 0.333333
r74 18 37 0.75
r75 17 25 6.25
r76 17 26 9.83333
r77 12 21 5
r78 11 18 5.4375
r79 6 33 5.5625
r80 5 30 5.5625
.ends

.subckt PM_NOR2D8%net9 1 2 19 40 46 52 54 57 60 66 67 68 69
c58 69 0 0.0143703f
c59 68 0 0.00679775f
c60 67 0 0.0325925f
c61 66 0 0.0442831f
c62 60 0 0.0272351f
c63 57 0 0.115266f
c64 54 0 0.0221467f
c65 52 0 0.0601563f
c66 46 0 0.324103f
c67 40 0 0.466331f
c68 19 0 0.352713f
r69 60 69 0.0636395
r70 59 68 0.0296412
r71 59 69 0.163333
r72 57 68 0.00770322
r73 56 57 0.735
r74 54 68 0.0296412
r75 54 67 0.151667
r76 52 56 0.039111
r77 52 66 0.151667
r78 46 67 0.0532251
r79 40 66 0.0550476
r80 19 60 0.0661111
r81 2 46 0.0661111
r82 1 40 0.0661111
.ends

.subckt PM_NOR2D8%OUT 1 10 19 40 41 47 50 52 53 54 56 57 59 60 67 68 69 70 76 77
+ 78
c87 78 0 0.0372956f
c88 77 0 0.00393008f
c89 76 0 0.0290374f
c90 70 0 0.0318517f
c91 69 0 0.0232733f
c92 68 0 0.0378967f
c93 67 0 0.0585594f
c94 60 0 0.0319209f
c95 59 0 0.00284233f
c96 57 0 0.300432f
c97 56 0 0.295675f
c98 54 0 0.00182626f
c99 53 0 0.541677f
c100 52 0 0.0179378f
c101 50 0 0.02078f
c102 47 0 0.0373585f
c103 41 0 0.352247f
c104 19 0 0.335939f
c105 10 0 0.352247f
r106 68 70 0.0517064
r107 68 69 0.256667
r108 67 69 0.039111
r109 66 67 0.116667
r110 60 78 0.0532251
r111 59 78 0.163333
r112 56 57 1.18603
r113 54 56 1.18603
r114 53 66 0.039111
r115 52 59 0.039111
r116 51 77 0.0296412
r117 51 52 0.361667
r118 50 77 0.0296412
r119 49 54 0.039111
r120 49 50 0.0933333
r121 47 77 0.00770322
r122 47 76 0.198333
r123 41 76 0.0550476
r124 40 53 0.746667
r125 40 57 1.18627
r126 19 60 0.0661111
r127 10 70 0.0661111
r128 1 41 0.0661111
.ends

.subckt PM_NOR2D8%VDD 1 2 27 28 37 44 48
c48 48 0 2.16428f
c49 44 0 0.423921f
c50 37 0 0.461576f
c51 28 0 1.24258f
c52 27 0 1.88536f
c53 2 0 2.16415f
r54 44 48 0.0274005
r55 43 44 0.309167
r56 37 43 0.0973208
r57 28 48 0.0131146
r58 2 28 0.0816667
r59 2 27 0.422333
r60 1 37 0.0661111
.ends

.subckt PM_NOR2D8%VSS 1 2 19 20 53 55 56 57 64 65 70 71 77 83 86 87 88
c60 88 0 0.0779568f
c61 87 0 0.0279192f
c62 86 0 0.468547f
c63 83 0 0.0884618f
c64 77 0 0.588661f
c65 71 0 0.0912543f
c66 70 0 0.0604272f
c67 65 0 1.10368f
c68 64 0 1.11166f
c69 57 0 0.331643f
c70 56 0 1.56483f
c71 55 0 0.458374f
c72 53 0 0.88715f
c73 19 0 1.09648f
c74 2 0 0.576641f
c75 1 0 1.2328f
r76 85 86 0.665
r77 83 86 0.039111
r78 83 88 0.0933333
r79 77 88 0.0532251
r80 71 87 0.0532251
r81 70 87 0.0933333
r82 64 65 0.289333
r83 56 85 0.0679156
r84 55 70 0.039111
r85 54 57 0.0679156
r86 54 55 0.641667
r87 53 64 0.289333
r88 20 77 0.0661111
r89 19 56 0.0793333
r90 19 65 0.289333
r91 2 71 0.0661111
r92 1 53 0.233333
r93 1 57 0.0793333
.ends

