* File: XNOR2D1.cdl.pex
* Created: Wed Jan 15 20:49:19 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_XNOR2D1%IN2 3 6 9 12 17 21 22 24 27 29 30 34 35 37 39 42 44 45 51 54
+ 55 56 60 61 63 65 70
c121 70 0 0.0126194f
c122 65 0 0.00494722f
c123 63 0 0.155307f
c124 61 0 0.0235973f
c125 60 0 0.0479982f
c126 56 0 0.0547335f
c127 55 0 0.0317701f
c128 54 0 0.13596f
c129 51 0 0.0508632f
c130 45 0 0.170686f
c131 44 0 0.0961245f
c132 42 0 0.132167f
c133 39 0 0.192766f
c134 37 0 0.360187f
c135 35 0 0.0241881f
c136 34 0 0.200545f
c137 30 0 0.329f
c138 29 0 0.028616f
c139 27 0 0.0559862f
c140 24 0 0.148929f
c141 22 0 0.239517f
c142 21 0 0.186089f
r143 64 65 0.0417772
r144 63 70 0.0417772
r145 63 64 0.7
r146 56 58 0.666667
r147 54 55 0.375
r148 51 70 0.0233333
r149 51 53 0.488662
r150 44 65 0.0233333
r151 44 45 0.512484
r152 41 62 0.0558598
r153 41 42 2.33333
r154 39 62 0.577584
r155 37 42 0.279364
r156 37 61 7.83333
r157 35 60 0.282372
r158 34 61 0.282372
r159 33 56 0.0293644
r160 33 60 0.833333
r161 30 58 0.0293644
r162 30 55 5.91667
r163 29 54 2.91667
r164 27 29 0.279364
r165 27 53 1.5
r166 22 48 0.831548
r167 21 24 0.831548
r168 21 47 3.5
r169 18 48 0.049177
r170 18 45 2.66667
r171 17 47 0.49165
r172 17 44 0.0208333
r173 12 34 1.25
r174 12 35 1.25
r175 9 24 0.625
r176 6 39 1.25
r177 3 22 1.25
.ends

.subckt PM_XNOR2D1%net4 1 4 9 12 19 24 25 26 27 32 36 42 43 46 48 52 53 54
c93 54 0 0.0184665f
c94 53 0 0.0324841f
c95 52 0 0.0807425f
c96 48 0 0.0378152f
c97 46 0 0.0386013f
c98 43 0 0.101548f
c99 42 0 0.308164f
c100 36 0 0.0218802f
c101 32 0 0.141705f
c102 27 0 0.489928f
c103 26 0 0.0393776f
c104 25 0 0.160859f
c105 24 0 0.157822f
c106 19 0 0.0914745f
r107 48 62 0.0417772
r108 48 53 0.14
r109 46 54 0.0417772
r110 46 52 0.14
r111 43 53 0.0684127
r112 36 62 0.0233333
r113 31 42 5.91667
r114 27 31 0.542299
r115 26 36 0.409182
r116 25 28 0.666667
r117 25 26 1.9375
r118 23 36 0.155119
r119 23 24 3.83333
r120 21 54 0.0233333
r121 19 24 0.381742
r122 19 21 0.305556
r123 12 27 2.5
r124 12 28 2.75
r125 9 32 0.125
r126 9 42 0.407372
r127 9 32 0.5
r128 4 52 0.0723016
r129 1 43 0.0661111
.ends

.subckt PM_XNOR2D1%net1 1 4 7 10 15 18 29 31 32 34 37 39 41 44 46 47 53 56 58 59
+ 60 61 73 81
c137 81 0 0.0842214f
c138 73 0 0.0130492f
c139 68 0 0.0073296f
c140 61 0 0.0483162f
c141 60 0 0.0231501f
c142 59 0 0.301589f
c143 58 0 0.0737831f
c144 56 0 0.104257f
c145 53 0 0.36937f
c146 47 0 0.0874092f
c147 46 0 0.0413172f
c148 44 0 0.00809647f
c149 41 0 0.00809647f
c150 39 0 0.0374723f
c151 37 0 0.0185784f
c152 34 0 0.0246994f
c153 32 0 0.0955079f
c154 31 0 0.243059f
c155 29 0 0.396327f
c156 7 0 0.0845995f
c157 4 0 0.177102f
c158 1 0 0.0653319f
r159 61 81 0.182
r160 59 77 0.0417772
r161 59 60 1.12
r162 58 60 0.039111
r163 57 73 0.0296412
r164 57 58 0.326667
r165 56 73 0.0296412
r166 56 72 0.513333
r167 54 68 0.0337467
r168 53 73 0.00770322
r169 53 54 1.61
r170 48 68 0.0100005
r171 47 68 0.0100005
r172 46 47 0.119
r173 44 81 0.0487198
r174 41 77 0.0233333
r175 37 72 0.0684127
r176 34 37 0.166667
r177 31 44 0.769641
r178 29 39 0.282372
r179 28 34 0.298409
r180 28 39 0.75
r181 18 32 0.166203
r182 18 41 0.594406
r183 18 31 1.125
r184 18 32 1.125
r185 15 29 2.5
r186 10 61 0.0279089
r187 7 48 0.05257
r188 4 10 0.147778
r189 1 46 0.0185931
.ends

.subckt PM_XNOR2D1%net3 1 4 7 10 11 14 24 25 27 31 39 47 48 52 54 55 56 59 63 64
+ 65 66 69
c80 69 0 0.0763701f
c81 66 0 0.0442459f
c82 65 0 0.0621639f
c83 64 0 0.0693389f
c84 63 0 0.0317967f
c85 59 0 0.0641409f
c86 56 0 0.0600354f
c87 55 0 0.1768f
c88 54 0 0.0291527f
c89 52 0 0.0389311f
c90 48 0 0.0316879f
c91 47 0 0.0987595f
c92 39 0 0.18969f
c93 31 0 0.0250171f
c94 27 0 0.361543f
c95 25 0 0.419092f
c96 24 0 0.182053f
r97 63 64 0.135
r98 61 69 0.63
r99 59 61 0.039111
r100 59 66 0.186667
r101 56 65 0.0684127
r102 55 66 0.0684127
r103 54 65 0.21
r104 51 54 0.039111
r105 51 52 0.186667
r106 48 64 0.0386436
r107 47 52 0.0534439
r108 39 63 0.0386436
r109 31 69 0.0684127
r110 31 32 0.375
r111 25 29 0.577584
r112 24 32 0.268277
r113 23 29 0.0558598
r114 23 24 6
r115 14 27 0.187416
r116 14 32 0.34375
r117 14 27 1.125
r118 11 47 0.0777778
r119 11 48 0.0194444
r120 10 25 2.5
r121 7 39 0.0505556
r122 4 56 0.00388889
r123 1 55 0.0661111
r124 1 4 0.147778
.ends

.subckt PM_XNOR2D1%IN1 3 6 9 13 15
c15 15 0 0.200983f
c16 13 0 0.290923f
c17 9 0 0.790783f
r18 13 17 0.831548
r19 11 15 0.831548
r20 10 17 0.049177
r21 9 11 3.08333
r22 9 10 4.58333
r23 6 15 0.625
r24 3 13 1.25
.ends

.subckt PM_XNOR2D1%VSS 1 4 7 8 19 31
c37 31 0 1.44386f
c38 8 0 1.96204f
c39 7 0 1.36758f
c40 4 0 1.12074f
r41 30 31 0.184333
r42 8 31 0.184333
r43 7 30 0.184333
r44 7 19 0.137667
r45 4 19 0.14
r46 1 4 0.154
.ends

.subckt PM_XNOR2D1%VDD 1 4 7 8 17
c33 17 0 0.905804f
c34 8 0 2.87879f
c35 7 0 1.0842f
c36 4 0 1.10583f
r37 7 8 0.387333
r38 7 17 0.287
r39 4 17 0.231
r40 1 4 0.154
.ends

.subckt PM_XNOR2D1%OUT 1 2 10 11
c14 11 0 0.0653397f
c15 10 0 0.601011f
c16 1 0 0.287572f
r17 10 11 0.0385
r18 2 10 0.05775
r19 1 11 0.0145611
r20 1 16 0.0323581
r21 1 16 0.07
.ends

